US08633173B2
[8-(3-Dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine was prepared from 4-{4-[8-(3-dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (0.288 g, 0.563 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.218 g, 94%). MP=104-108° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.56 (s, 1H), 8.74 (d, 1H), 7.82 (d, 1H), 7.62 (d, 2H), 7.50 (s, 1H), 7.32 (m, 2H), 7.15 (m, 3H), 6.80 (d, 1H), 3.65 (br m, 1H), 3.15 (m, 2H), 3.00 (s, 6H), 2.60 (br m, 3H), 1.65 (m, 2H), 1.45 (m, 2H). MS=413 (MH)+.

reactant | 4-{4-[8-(3-dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.563 mmol, 0.288 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC(=CC=C2)N(C)C)=N1 | C30H36N6O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(3-Dimethylamino-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | CN(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2)C | C25H28N6
